US07749999B2
5-tert-Butyl-2-p-tolyl-2H-pyrazole-3-carbaldehyde (R=Me).
To a scintillation vial containing (5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-methanol (0.515 g, 2.1 mmol) was added 15 mL DCM followed by the addition of Dess-Martin periodinane (1.1 g, 2.52 mmol). The reaction mixture was allowed to stir at room temperature for 20 minutes and poured into a separatory funnel containing 30 mL water. The layers separated and the aqueous layer extracted twice more with 50 mL DCM. The combined organic layers were washed with Brine, dried over MgSO4 and concentrated under vacuum to afford the crude aldehyde. The crude material was purified by flash chromatography (0-50% EtOAc:Hexanes, silica gel) to yield the desired product as a clear oil (0.5 g, 97%). Expected mass=242. Observed mass=243.

reactant | (5-tert-Butyl-2-p-tolyl-2H-pyrazol-3-yl)-methanol | 2.1 mmol, 0.515 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)CO | C15H20N2O
reactant | DCM | 15 mL | C(Cl)Cl | CH2Cl2
reactant | Dess-Martin periodinane | 2.52 mmol, 1.1 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | water | 30 mL | O | H2O
product | 5-tert-Butyl-2-p-tolyl-2H-pyrazole-3-carbaldehyde | 0.5 g, 97% | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)C=O | C15H18N2O
